US07846929B2
To a solution of crude 1-bromo-5-fluoro-2-methyl-3-nitro-benzene (5.96 g) in MeOH (90 mL) was added concentrated hydrochloric acid (11.7 mL) and iron (6.1 g) and the reaction mixture was heated to reflux. After 16 h, the mixture was cooled, diluted with DCM, washed with sodium carbonate solution, dried (MgSO4) and the solvent removed in vacuo. The residue was purified using flash chromatography to yield 3-bromo-5-fluoro-2-methyl-phenylamine (1.46 g).

reactant | 1-bromo-5-fluoro-2-methyl-3-nitro-benzene | 5.96 g | BrC1=C(C(=CC(=C1)F)[N+](=O)[O-])C | C7H5BrFNO2
reactant | hydrochloric acid | 11.7 mL | Cl | ClH
solvent | MeOH | 90 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | iron | 6.1 g | [Fe] | Fe
product | 3-bromo-5-fluoro-2-methyl-phenylamine | 1.46 g | BrC=1C(=C(C=C(C1)F)N)C | C7H7BrFN
